US06251936B1
4,5-Dimethylthiophene-2-yl-(phenyl)-methanol
n-Butyl lithium (19.6 ml, 49.1 mmol, 2.5 N in hexanes) was added dropwise to a stirred solution of 2,3-dimethyl-thiophene (5.0 g, 44.6 mmol) in THF (100 mL) at −78° C. under a dry nitrogen atmosphere. The solution was warmed to 0° C. for 30 min and recooled to −78° C. whereupon benzaldehyde (5.0 mL, 49.1 mmol ) was added. After an additional 45 minutes, sat. aq. ammonium chloride was added and the reaction mixture was partitioned between water and ether. The ether phase was washed with brine and concentrated. The resultant oil was triturated with pet. ether to provide the title compound as a white solid (7.77 g, 80%): mp 80-81° C.: NMR (CDCl3); δ7.45 (ddd, J=8, 1, 1 Hz, 2H), 7.37 (ddd, J=8, 8, 1 Hz, 2H), 7.3 (m, 1H), 6.57 (s, 1H), 6.93 (s, 1H, OH), 2.29 (s, 3H), 2.05 (s, 3H); MS (EI) (M+) 218 (45%, MI): Anal. Calc. for C13H14OS: C, 71.52; H, 6.46; N, 0.00. Found: C, 71.41; H, 6.42; N, 0.09.

reactant | n-Butyl lithium | 49.1 mmol, 2.5 N, 19.6 ml | C(CCC)[Li]
reactant | 2,3-dimethyl-thiophene | 44.6 mmol, 5.0 g | CC=1SC=CC1C | C6H8S
reactant | benzaldehyde | 49.1 mmol, 5.0 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4,5-Dimethylthiophene-2-yl-(phenyl)-methanol | 7.77 g, 80% | CC=1C=C(SC1C)C(O)C1=CC=CC=C1 | C13H14OS
